* 12V 2-wire BLDC fan equivalent model
* Pins: PLUS MINUS RPM_OUT

.subckt FAN12V PLUS MINUS RPM_OUT
.param Rm=30
.param Lm=2m
.param Ke=24m
.param Kt=24m
.param Jm=20u
.param Bm=1u
.param Kfan=33n

* Electrical winding equivalent
Rmotor PLUS N1 {Rm}
Lmotor N1 N2 {Lm}
Vsense N2 N3 0

* Motor back-EMF
Bbemf N3 MINUS V={Ke*V(SPEED)}

* Mechanical inertia and bearing friction
Cinertia SPEED 0 {Jm} IC=0
Rfriction SPEED 0 {1/Bm}

* Electromagnetic torque
Btorque 0 SPEED I={Kt*I(Vsense)}

* Fan aerodynamic load
Bair SPEED 0 I={Kfan*V(SPEED)*abs(V(SPEED))}

* Speed output: 1V = 1RPM
Brpm RPM_OUT 0 V={V(SPEED)*9.5492966}
Rrpm RPM_OUT 0 1G

.ends FAN12V