* Simple 5 V brushed DC hand-fan motor equivalent for LTspice
* Pins: +  -  RPM(output voltage, 1 V = 1000 rpm)
.subckt FAN5V P N RPM
Rcoil P X 8
Lcoil X N 300u
Bspeed RPM 0 V={limit(V(P,N),0,5)*2.0}
Rrpm RPM 0 1Meg
.ends FAN5V
